US07030123B2
A solution of 5-(3-nitrobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile (40 mg; 0.12 mol) in MeOH (6 ml) was treated with K2CO3 (6 mg) and hydrogenated over PtO2 (6 mg) at 45 psi at room temperature for 1 hour. After filtration and evaporation to dryness, the residue was purified by flash chromatography eluting with MeOH/CH2Cl2 (5% MeOH) and the appropriate factions were evaporated to give 5-(3-aminobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile (32 mg).

reactant | 5-(3-nitrobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile | 0.12 mol, 40 mg | [N+](=O)([O-])C=1C=C(COC=2C=C3C(=C(N(C3=CC2)C)N)C#N)C=CC1 | C17H14N4O3
reactant | K2CO3 | 6 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 6 ml | CO | CH4O
catalyst | PtO2 | 6 mg | O=[Pt]=O
product | 5-(3-aminobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile | 32 mg | NC=1C=C(COC=2C=C3C(=C(N(C3=CC2)C)N)C#N)C=CC1 | C17H16N4O
